US06362365B1
20 g of tetrafluoroisophthalic acid are initially charged in 250 ml of THF and, at from 20 to 40° C., admixed with 88 ml of a 3 molar methylmagnesium chloride solution. Customary aqueous work-up (see Example 3) gives 20.1 g of 2,4,5-trifluoro-6-methylisophthalic acid. The purity of the product is 85% by HPLC.

reactant | tetrafluoroisophthalic acid | 20 g | FC1=C(C(=C(C(=C1C(=O)O)F)C(=O)O)F)F | C8H2F4O4
reactant | methylmagnesium chloride | 3 molar | C[Mg]Cl
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 2,4,5-trifluoro-6-methylisophthalic acid | 20.1 g | FC1=C(C(=O)O)C(=C(C(=C1C(=O)O)F)F)C | C9H5F3O4
